US08445510B2
trans-4-[3-Ethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]cyclohexanol
To a solution of trans-4-(3-ethyl-4-iodo-1H-pyrazol-1-yl)cyclohexanol (150.0 mg, 0.4685 mmol) in THF (10 mL, 100 mmol) at rt was added 2 M isopropylmagnesium chloride in THF (0.70 mL, 1.4 mmol), and the mixture was stirred for 1 h. The reaction was quenched with 2-methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.31 mL, 1.9 mmol), and allowed to stir at rt for 1 h. Sat. NH4Cl was added, and the organic solvent was removed in vacuo. The material was extracted with DCM and water. The organic layer was concentrated in vacuo to afford the title compound as a white solid. The material was used in the next step without further purification.

reactant | trans-4-(3-ethyl-4-iodo-1H-pyrazol-1-yl)cyclohexanol | 0.4685 mmol, 150.0 mg | C(C)C1=NN(C=C1I)[C@@H]1CC[C@H](CC1)O | C11H17IN2O
reactant | THF | 100 mmol, 10 mL | C1CCOC1 | C4H8O
reactant | isopropylmagnesium chloride | 2 M | C(C)(C)[Mg]Cl
reactant | THF | 1.4 mmol, 0.70 mL | C1CCOC1 | C4H8O
reactant | 2-methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.9 mmol, 0.31 mL | COB1OC(C(O1)(C)C)(C)C | C7H15BO3
reactant | NH4Cl | [NH4+].[Cl-]
product | trans-4-[3-Ethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]cyclohexanol | C(C)C1=NN(C=C1B1OC(C(O1)(C)C)(C)C)[C@@H]1CC[C@H](CC1)O | C17H29BN2O3
